US07495110B2
Stage 4: 3-(2-[(3-bromobenzyl)sulphanyl]-5-{[4-(1-pyrrolidinyl)-1-piperidinyl]carbonyl}-1H-benzimidazol-1-yl)-N-methyl-N-[2-(2-pyridinyl)ethyl]-1-propanamine
Carbonyldiimidazole (10.5 mg, 1.3 eq) in solution in chloroform (0.2 ml) is added to a solution of 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid (27 mg, 1 eq) in a mixture of dimethylformamide (0.2 ml) and tetrahydrofuran (0.4 ml). The mixture is stirred for 15 hours at approximately 20° C. then 4-(1-pyrrolidinyl)piperidine (15 mg, 2 eq) is added. After stirring for 15 hours at approximately 20° C., aminomethyl polystyrene resin (2 eq, acquired from Novabiochem), TBD-methyl polystyrene resin (2 eq, acquired from Novabiochem) and methylisothiocyanate polystyrene resin (4 eq, acquired from Novabiochem) are added to the mixture diluted in dichloromethane. After stirring for 6 hours at approximately 20° C., the mixture is filtered and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (28 mg, 84% yield).

reactant | Carbonyldiimidazole | 10.5 mg, 1.3 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid | 27 mg, 1 eq | BrC=1C=C(CSC2=NC3=C(N2CCCN(CCC2=NC=CC=C2)C)C=CC(=C3)C(=O)O)C=CC1 | C26H27BrN4O2S
reactant | 4-(1-pyrrolidinyl)piperidine | 15 mg, 2 eq | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | aminomethyl polystyrene resin | 2 eq | N | H3N
reactant | methylisothiocyanate polystyrene | 4 eq | CN=C=S | C2H3NS
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-[(3-bromobenzyl)sulphanyl]-5-{[4-(1-pyrrolidinyl)-1-piperidinyl]carbonyl}-1H-benzimidazol-1-yl)-N-methyl-N-[2-(2-pyridinyl)ethyl]-1-propanamine | BrC=1C=C(CSC2=NC3=C(N2CCCN(CCC2=NC=CC=C2)C)C=CC(=C3)C(=O)N3CCC(CC3)N3CCCC3)C=CC1 | C35H43BrN6OS
